US08497371B2
2-(4-{[(2-methoxyphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (21)
Pipemidic acid (53 mg, 0.175 mmol) and 2-methoxyphenyl isothiocyanate (20 μL, 0.145 mmol) were used. Purification on silica yielded compound 21 in Table 1, below (36 mg, 53%). 1H NMR (250 MHz, CDCl3) δ 9.33 (s, 1H), 8.68 (s, 1H), 7.84 (d, J=7.30 Hz, 1H), 7.54 (s, 1H), 7.20-7.04 (m, 1H), 7.03-6.85 (m, 2H), 4.44-3.73 (m, 13H), 1.49 (t, J=6.60 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.175 mmol, 53 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2-methoxyphenyl isothiocyanate | 0.145 mmol, 20 μL | COC1=C(C=CC=C1)N=C=S | C8H7NOS
product | 2-(4-{[(2-methoxyphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | COC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C22H24N6O4S
